US08486970B2
To a solution of 2.06 g of 3-amino-4-hydroxybenzoic acid in 20.6 ml of THF was added 4.81 g of CDI, followed by stirring at room temperature for 1 hour. The reaction mixture was added dropwise to a mixed liquid of 3.06 g of sodium borohydride in 20.6 ml of THF and 8.26 ml of water, cooled to 0° C., which had been separately prepared, followed by stirring overnight. 1 M hydrochloric acid was added thereto, followed by extracting with ethyl acetate, and washing with a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 1.2 g of 5-(hydroxymethyl)-1,3-benzoxazol-2(3H)-one.

reactant | 3-amino-4-hydroxybenzoic acid | 2.06 g | NC=1C=C(C(=O)O)C=CC1O | C7H7NO3
reactant | CDI | 4.81 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | sodium borohydride | 3.06 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 20.6 ml | C1CCOC1 | C4H8O
solvent | THF | 20.6 ml | C1CCOC1 | C4H8O
solvent | water | 8.26 ml | O | H2O
product | 5-(hydroxymethyl)-1,3-benzoxazol-2(3H)-one | 1.2 g | OCC=1C=CC2=C(NC(O2)=O)C1 | C8H7NO3
